US04576751
6.1 g (25 mmol) of 2-(2-amino-4-thiazolyl)-2-(Z)-hydroxyimino-acetic acid t-butyl ester are dispersed in 250 ml of dry acetonitrile. There are now added thereto at room temperature while stirring 13.7 g (50 mmol) of 4-nitrobenzyl bromoacetate and 12.9 ml (75 mmol) of N-ethyldiisopropylamine. 5 minutes later 7.5 g (50 mmol) of sodium iodide are added thereto. The mixture is stirred at room temperature for 3.5 hours in an argon temperature. The solvent is subsequently removed by evaporation and the residue is diluted with 500 ml of ethyl acetate. The resulting solution is washed four times with a total of 2 l of water. The water is extracted with 300 ml of ethyl acetate and the combined ethyl acetate solutions are dried over sodium sulphate and evaporated to dryness. After crystallization from ethyl acetate/hexane, there are obtained 8.2 g (75%) of 2-(2-amino-4-thiazolyl)-2-[[(p-nitrobenzyloxycarbonyl)methoxy]imino]-acetic acid t-butyl ester of melting point 146.8° (decomposition).

reactant | 2-(2-amino-4-thiazolyl)-2-(Z)-hydroxyimino-acetic acid t-butyl ester | 25 mmol, 6.1 g | C(C)(C)(C)OC(\C(=N/O)\C=1N=C(SC1)N)=O | C9H13N3O3S
reactant | 4-nitrobenzyl bromoacetate | 50 mmol, 13.7 g | BrCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C9H8BrNO4
reactant | N-ethyldiisopropylamine | 75 mmol, 12.9 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium iodide | 50 mmol, 7.5 g | [I-].[Na+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 2-(2-amino-4-thiazolyl)-2-[[(p-nitrobenzyloxycarbonyl)methoxy]imino]-acetic acid t-butyl ester | 8.2 g, 75% | C(C)(C)(C)OC(C(=NOCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1N=C(SC1)N)=O | C18H20N4O7S
